US04988698
A mixture of ethyl 3-[3-[4-(7-methylimidazo[1,2-a]-pyridine-2-carbonyl)-1-piperazinyl]-6-nitrophenyl]acrylate (926 mg), 10% palladium carbon (139 mg), dichloromethane (50 ml) and methanol (50 ml) was hydrogenated under one atmospheric pressure of hydrogen at ambient temperature for 2.5 hours. After filtration, acetic acid (1 ml) was added to the filtrate containing ethyl 3-[3-[4-(7-methylimidazo[1,2-a]pyridine-2-carbonyl-1-piperazinyl]-6-aminophenyl]propionate and 6-[4-(7-methylimidazo[1,2-a]-pyridine-2-carbonyl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone and evaporated in vacuo. The residue was dissolved in chloroform (30 ml) and washed with saturated aqueous solution of sodium hydrogene carbonate. The extract was dried over magnesium sulfate and concentrated. The residue was crystallized from ethanol to give 6-[4-(7-methylimidazo[1,2-a]pyridine-2-carbonyl)-1-piperazinyl]-3,4-dihydro-2(lH)-quinolinone (612 mg).

reactant | ethyl 3-[3-[4-(7-methylimidazo[1,2-a]-pyridine-2-carbonyl)-1-piperazinyl]-6-nitrophenyl]acrylate | 926 mg | CC1=CC=2N(C=C1)C=C(N2)C(=O)N2CCN(CC2)C=2C=C(C(=CC2)[N+](=O)[O-])C=CC(=O)OCC | C24H25N5O5
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 139 mg | [C].[Pd]
solvent | methanol | 50 ml | CO | CH4O
product | 6-[4-(7-methylimidazo[1,2-a]pyridine-2-carbonyl)-1-piperazinyl]-3,4-dihydro-2(lH)-quinolinone | 612 mg | CC1=CC=2N(C=C1)C=C(N2)C(=O)N2CCN(CC2)C=2C=C1CCC(NC1=CC2)=O | C22H23N5O2
